US04374137
2'-(3,4,5-Trimethoxybenzoyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline]
To a cold solution of spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (8.0 g) and triethylamine (4.0 g) in dry dichloromethane (100 ml) is added dropwise a solution of 3,4,5-trimethoxybenzoyl chloride (9.5 g) in dry dichloromethane (50 ml). After stirring at ambient temperature for 24 hours, the mixture is washed with water (2x), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent is evaporated to an oil, which solidifies upon trituration with hexanes. The solid is recrystallized twice from hexane/methanol to yield 10.0 g (66%) of product, mp 122° (dec.).

reactant | spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 8.0 g | C1NCC2(C3=CC=CC=C13)OC1=C(C2)C=CC=C1 | C16H15NO
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoyl chloride | 9.5 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2'-(3,4,5-Trimethoxybenzoyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 10.0 g, 66% | COC=1C=C(C(=O)N2CC3=CC=CC=C3C3(C2)OC2=C(C3)C=CC=C2)C=C(C1OC)OC | C26H25NO5
